US04395406
1-(2,3-Dihydroxypropyl)-5-chloropyrimid-2-one
A solution prepared from 5-chloropyrimid-2-one (0.02 mol) potassium hydroxide (0.02 mol), and 3-chloro-1,2-propanediol (0.02 mol) in abs. ethanol (160 ml) was heated under reflux until neutral pH. The warm reaction mixture was filtered before concentration to a small volume at reduced pressure. The syrupy precipitate was partially crystallised on standing in the cold. The oily material was removed from the crystalline material by suction on a filter and the crystalline material recrystallised from acetonitrile, yield 32% m.p. 136°-138° C.; (Found: C, 41.15; H, 4.55; Calc. for C7H9ClN2O3 : C, 41.09; H, 4.43).

reactant | 5-chloropyrimid-2-one | 0.02 mol | ClC=1C=NC(NC1)=O | C4H3ClN2O
reactant | 3-chloro-1,2-propanediol | 0.02 mol | ClCC(CO)O | C3H7ClO2
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-(2,3-Dihydroxypropyl)-5-chloropyrimid-2-one | yield 32% | OC(CN1C(N=CC(=C1)Cl)=O)CO | C7H9ClN2O3
